US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine, ethylene glycol dimethyl ether and tetrakis(triphenylphosphine) palladium and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.51, 7.31, 6.81, 6.71, 5.44, 4.63, 3.83, 2.93-2.76, 2.66-2.51, 2.10, 1.91, 1.32-1.14; HRMS (FAB) calcd for C25H27Cl2N3O+H 456.1609, found 456.1624; Anal. Calcd for C25H27Cl2N3O: C, 65.79; H, 5.96; N, 9.21. Found: C, 65.58; H, 5.96; N, 8.99.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=CC(=CC=C12)OC)CC | C19H24BrN3O
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCCC2=CC(=CC=C12)OC)CC | C25H27Cl2N3O
